US08420629B2
Step 5. 2,2′,2″-cyclobutane-1,1-diyl-3-ylidenetriacetonitrile
To a solution of 1.0 M of potassium tert-butoxide in tetrahydrofuran (5.1 mL) was added dropwise at 0° C. diethyl cyanomethylphosphonate (0.82 mL, 0.0051 mol). The reaction was warmed to rt and 30 min later cooled to 0° C. again. To the reaction mixture was added a solution of 2,2′-(3-oxocyclobutane-1,1-diyl)diacetonitrile (0.5 g, 0.003 mol) in THF (5 mL). The reaction was allowed to warm up to rt gradually and stirred at rt for 2 h. The reaction was quenched with saturated aq. NH4Cl, then extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4 and concentrated to give a brown oily crude product, which was used directly in the next step.

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.0051 mol, 0.82 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 2,2′-(3-oxocyclobutane-1,1-diyl)diacetonitrile | 0.003 mol, 0.5 g | O=C1CC(C1)(CC#N)CC#N | C8H8N2O
solvent | tetrahydrofuran | 5.1 mL | O1CCCC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,2′,2″-cyclobutane-1,1-diyl-3-ylidenetriacetonitrile | C1(CC(C1)=CC#N)(CC#N)CC#N | C10H9N3
